US04705782
B. 1,2-Dihydro-N-hydroxy-6,7-dimethoxy-naphthalene-3-carboxamide sodium salt
1,2-Dihydro-N-hydroxy-6,7-dimethoxy-naphthalene-3-carboxamide (2.5 g) was added to a stirred solution of sodium metal (0.227 g) in methanol (55 ml). After 15 min. the solution was evaporated to dryness and the residue crystallised from methanol:ether to give 2.5 g of the title product.

reactant | 1,2-Dihydro-N-hydroxy-6,7-dimethoxy-naphthalene-3-carboxamide | 2.5 g | ONC(=O)C=1CCC2=CC(=C(C=C2C1)OC)OC | C13H15NO4
reactant | sodium | 0.227 g | [Na] | Na
solvent | methanol | 55 ml | CO | CH4O
product | 1,2-Dihydro-N-hydroxy-6,7-dimethoxy-naphthalene-3-carboxamide sodium salt | 2.5 g | [Na].ONC(=O)C=1CCC2=CC(=C(C=C2C1)OC)OC | InChI=1S/C13H15NO4.Na/c1-17-11-6-8-3-4-9(13(15)14-16)5-10(8)7-12(11)18-2;/h5-7,16H,3-4H2,1-2H3,(H,14,15);
